US06555577B1
The colourless solid (E)-3-(3′-methoxy-biphenyl-4-yl)-but-2-en-1-ol was prepared by DIBAL-H reduction of (E)-ethyl 3-(3′-methoxy-biphenyl-4-yl)-but-2-enoate as described for example 52b.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (E)-ethyl 3-(3′-methoxy-biphenyl-4-yl)-but-2-enoate | COC=1C=C(C=CC1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C19H20O3
product | (E)-3-(3′-methoxy-biphenyl-4-yl)-but-2-en-1-ol | COC=1C=C(C=CC1)C1=CC=C(C=C1)/C(=C/CO)/C | C17H18O2
